US07820664B2
To a solution of 1-(2-(tert-butyldimethylsilyloxy)ethyl)-N-(7-fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylbenzo[d]isoxazol-5-yl)cyclopropane-1-sulfonamide (20 mg, 0.030 mmol) in THF (2 ml) was added HCl (0.10 ml, 1.2 N in H2O, 0.12 mmol). After stirring for 1 h, the reaction was quenched with saturated aqueous NaHCO3 solution (3 ml) and extracted with EtOAc (2×10 ml). The combined organic solution was dried over Na2SO4 and concentrated. Silica gel chromatography (EtOAc:Hexanes=75:25) yielded 10 mg (61%) of 1-(2-hydroxyethyl)-N-(7-fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylbenzo[d]isoxazol-5-yl)cyclopropane-1-sulfonamide as a white solid. 1H NMR (DMSO-d6, 400 MHz): δ 0.75 (m, 2H), 0.87 (m, 2H), 1.84 (t, J=8 Hz, 2H), 2.57 (s, 3H), 3.38 (m, 2H), 4.52 (s, 1H), 6.59 (m, 1H), 7.34 (d, J=8 Hz, 1H), 7.60 (dd, J=4, 8 Hz, 1H), 7.68 (s, 1H), 7.84 (s, 1H), 9.58 (s, 1H).

reactant | 1-(2-(tert-butyldimethylsilyloxy)ethyl)-N-(7-fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylbenzo[d]isoxazol-5-yl)cyclopropane-1-sulfonamide | 0.030 mmol, 20 mg | [Si](C)(C)(C(C)(C)C)OCCC1(CC1)S(=O)(=O)NC=1C(=C(C2=C(C(=NO2)C)C1)F)NC1=C(C=C(C=C1)I)F | C25H32F2IN3O4SSi
reactant | HCl | 0.12 mmol, 1.2 N, 0.10 ml | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(2-hydroxyethyl)-N-(7-fluoro-6-(2-fluoro-4-iodophenylamino)-3-methylbenzo[d]isoxazol-5-yl)cyclopropane-1-sulfonamide | 10 mg, 61% | OCCC1(CC1)S(=O)(=O)NC=1C(=C(C2=C(C(=NO2)C)C1)F)NC1=C(C=C(C=C1)I)F | C19H18F2IN3O4S
